US08207146B2
(E)-3-cyclopentyl-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazine-2-yl)acrylic acid
1.58 g of ethyl(E)-3-cyclopentyl-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)acrylate are dissolved in 130 ml of methanol, and 13.44 ml of 2 M NaOH solution are added. The reaction mixture is heated at the boil under reflux for two hours. The methanol is removed under reduced pressure, and the reaction mixture is adjusted to pH 4 by addition of 2N hydrochloric acid. The precipitated solid is filtered off with suction and dried under high vacuum. This gives 1.46 g of (E)-3-cyclopentyl-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)acrylic acid.

reactant | ethyl(E)-3-cyclopentyl-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazin-2-yl)acrylate | 1.58 g | C1(CCCC1)/C=C(/C(=O)OCC)\C1=CC=2N(C3=CC=CC=C3S(C2C=C1)(=O)=O)C | C23H25NO4S
reactant | NaOH | 2 M, 13.44 ml | [OH-].[Na+]
solvent | methanol | 130 ml | CO | CH4O
product | (E)-3-cyclopentyl-2-(10-methyl-5,5-dioxo-5,10-dihydrophenothiazine-2-yl)acrylic acid | C1(CCCC1)/C=C(/C(=O)O)\C1=CC=2N(C3=CC=CC=C3S(C2C=C1)(=O)=O)C | C21H21NO4S
